US07125896B2
b) 5-Iodo-2-piperidinylpyridine
Prepared from 2-chloro-5-iodopyridine and piperidine by the method of Example 9 (d).

reactant | 2-chloro-5-iodopyridine | ClC1=NC=C(C=C1)I | C5H3ClIN
reactant | piperidine | N1CCCCC1 | C5H11N
product | 5-Iodo-2-piperidinylpyridine | IC=1C=CC(=NC1)N1CCCCC1 | C10H13IN2
